US07589206B2
(c) 7-Chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester
To a solution of 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester (80 mg) in dimethylformamide (2 ml) was added 4-ethylmorpholine (131 μl), morpholine (46 μl), 1-hydroxybenzotriazole hydrate (54 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (60 mg) and the solution stirred at room temperature overnight. The dimethylformamide was evaporated and the residue dissolved in ethyl acetate (20 ml). The organic layer was then washed with 5% sodium hydrogen carbonate solution (2×4 ml) and water (2×10 ml). The organic layer was dried (MgSO4) and evaporated to give a yellow oil (107 mg) which was used without further purification.

reactant | 7-chloro-3-methyl-pyrrolo[2,3-c]pyridine-1,4-dicarboxylic acid 1-tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1C=C(C2=C1C(=NC=C2C(=O)O)Cl)C | C14H15ClN2O4
reactant | 4-ethylmorpholine | 131 μl | C(C)N1CCOCC1 | C6H13NO
reactant | morpholine | 46 μl | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole hydrate | 54 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 60 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-Chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 107 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCOCC2)Cl)C | C18H22ClN3O4
